US08258130B2
A suspension of NaH (600 mg, 15 mmol, 60% in mineral oil) in DMF (10 mL) at 0° C. is treated with 5-fluoro-3-(2-pyridin-3-yl-ethyl)-1H-indole (240 mg, 1 mmol) and stirred at 0° C. for 0.5 h. The mixture is treated with HOSA (565 mg, 5 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, filtered through a pad of Celite, and extracted with EtOAc (3×1050 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo to afford 5-fluoro-3-(2-pyridin-3-yl-ethyl)-indol-1-ylamine, which is used in the next step without further purification.

reactant | NaH | 15 mmol, 600 mg | [H-].[Na+]
reactant | 5-fluoro-3-(2-pyridin-3-yl-ethyl)-1H-indole | 1 mmol, 240 mg | FC=1C=C2C(=CNC2=CC1)CCC=1C=NC=CC1 | C15H13FN2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-3-(2-pyridin-3-yl-ethyl)-indol-1-ylamine | FC=1C=C2C(=CN(C2=CC1)N)CCC=1C=NC=CC1 | C15H14FN3
